US04843075
A mixture of 2 g of α-(2,3-dihydro-4-oxo-6-methyl-4H-1-benzothiopyran-3-yl)acetic acid and 0.8 g of 100% hydrazine hydrate in 50 ml of ethanol is refluxed under heating for 8 hours. After about half the volume of ethanol is distilled off under reduced pressure and the residue is allowed to cool, the precipitated crystals are collected by filtration and recrystallized from acetic acid to give 1 g of 9-methyl- 2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin 3-one, melting at 217°-219° C., as colorless prisms.

reactant | α-(2,3-dihydro-4-oxo-6-methyl-4H-1-benzothiopyran-3-yl)acetic acid | 2 g | O=C1C(CSC2=C1C=C(C=C2)C)CC(=O)O | C12H12O3S
reactant | hydrazine hydrate | 0.8 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 9-methyl- 2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin 3-one | 1 g | CC=1C=CC2=C(C1)C1=NNC(CC1CS2)=O | C12H12N2OS
